US05104888
6-Hydroxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)-2-octylchroman (Step A3, Deprotection)
A mixture of 3.7 g of 6-methoxymethoxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)-2-octylchroman (prepared as described in Preparation 14), 10 ml of acetic acid, 30 ml of benzene and 0.75 ml of 10% w/v aqueous sulfuric acid was heated under reflux for 30 minutes. The reaction mixture was then poured into water and extracted with benzene. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, to give the title compound.

reactant | 6-methoxymethoxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)-2-octylchroman | 3.7 g | COCOC=1C(=C2CCC(OC2=C(C1C)C)(CCCCCCCC)COC1=CC=C(C=C1)[N+](=O)[O-])C | C29H41NO6
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 6-Hydroxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)-2-octylchroman | OC=1C(=C2CCC(OC2=C(C1C)C)(CCCCCCCC)COC1=CC=C(C=C1)[N+](=O)[O-])C | C27H37NO5
